US08470961B2
Preparation of 1-iodo-2-octyldodecane.
Iodine (12.25 g, 48.3 mmol) was added to a solution of 2-octyl-1-dodecanol (12.42 g, 41.6 mmol), triphenylphosphine (13.17 g, 50.2 mmol), and imidazole (3.42 g, 50.2 mmol) in 80 mL dichloromethane at 0° C. After stirring for 30 min, the reaction mixture was allowed to warm to room temperature over 4 h before 12 mL of saturated Na2SO3 (aq) was added. The organics were concentrated by evaporation and the mixture taken up in 500 mL pentane, washed three times with 200 mL water, and once with 150 mL brine. The mixture was then passed through a 3 cm silica gel plug, and dried over Na2SO4. The organics were concentrated by evaporation to give a colorless oil (15.78 g, yield 92.9%).

reactant | Iodine | 48.3 mmol, 12.25 g | II | I2
reactant | 2-octyl-1-dodecanol | 41.6 mmol, 12.42 g | C(CCCCCCC)C(CO)CCCCCCCCCC | C20H42O
reactant | triphenylphosphine | 50.2 mmol, 13.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 50.2 mmol, 3.42 g | N1C=NC=C1 | C3H4N2
reactant | Na2SO3 | 12 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1-iodo-2-octyldodecane | 15.78 g, yield 92.9% | ICC(CCCCCCCCCC)CCCCCCCC | C20H41I
